US06169107A
A mixture of 0.20 g (0.71 mmol) of ethyl 7-[(3-aminopropyl)amino]-1-methyl-2-indolecarboxylate, 0.17 g (0.79 mmol) of di-tert-butyl dicarbonate and 3 ml of dichloromethane was stirred at room temperature for an hour. The solvent was distilled off under reduced pressure. The residue was isolated and purified by silica gel column chromatography to give 0.25 g (91.6%) of ethyl 7-[(3-tert-butoxycarbonylaminopropyl)amino]-1-methyl-2-indolecarboxylate.

reactant | ethyl 7-[(3-aminopropyl)amino]-1-methyl-2-indolecarboxylate | 0.71 mmol, 0.20 g | NCCCNC=1C=CC=C2C=C(N(C12)C)C(=O)OCC | C15H21N3O2
reactant | di-tert-butyl dicarbonate | 0.79 mmol, 0.17 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | ethyl 7-[(3-tert-butoxycarbonylaminopropyl)amino]-1-methyl-2-indolecarboxylate | 0.25 g, 91.6% | C(C)(C)(C)OC(=O)NCCCNC=1C=CC=C2C=C(N(C12)C)C(=O)OCC | C20H29N3O4
